US07495018B2
N-[4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]cyclohexanecarboxamide
To a solution of 4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine (0.80 g, 2.7 mmol) in tetrahydrofuran (10 mL) were added cyclohexanecarbonyl chloride (0.40 mL, 3.0 mmol) and triethylamine (0.39 mL, 2.8 mmol) sequentially, and the mixture was stirred for 1 hour at room temperature. To the reaction mixture was added an aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The extracts were washed with an aqueous sodium hydrogen carbonate solution, then, dried and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=20:1 to 4:1) to obtain a crystal. This crystal was washed with hexane to obtain a title compound (0.83 g, yield 75%).

reactant | 4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine | 2.7 mmol, 0.80 g | C(C)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)N | C17H17N3S
reactant | cyclohexanecarbonyl chloride | 3.0 mmol, 0.40 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | triethylamine | 2.8 mmol, 0.39 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]cyclohexanecarboxamide | 0.83 g, yield 75% | C(C)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)NC(=O)C1CCCCC1 | C24H27N3OS
